data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1478,1632,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]#[C:11][CH2:12][CH2:13][CH2:14][CH2:15][CH2:16]1.[N:17]#[C:18][C-:19]([N+:20]#[N:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]2=[C:11]([CH2:12][CH2:13][CH2:14][CH2:15][CH2:16]1)[N:21]=[N:20][C:19]2([C:18]#[N:17])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,26.80499853496014,-29.963879984815808
4104,4697,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]#[N+:12][C-:13]([C:14]([CH3:15])=[O:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:13]([C:14]([CH3:15])=[O:16])([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[N:12]=[C:11]1[C:9]([NH:8][CH3:7])=[O:10],water,298.15,10.787920700083468,-30.51484559117685
3214,3628,[CH3:10][O:11][C:12](=[O:13])[N-:14][N+:15]#[N:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:14]([C:12]([O:11][CH3:10])=[O:13])[N:15]=[N:16]1,water,298.15,29.418072107782912,-6.521617400443889
2361,2623,[CH3:13][N+:14](=[CH:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[C-:22]([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[CH:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[N:14]([CH3:13])[C:22]2([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,10.95916430044662,-42.13504736436363
412,450,[CH3:1][C:2]([CH3:3])=[C:4]([F:5])[F:6].[CH3:7][NH:8][C:9](=[O:10])[c-:11]1[nH+:12][c:13]([C:14](=[O:15])[O:16][CH3:17])[o:18][c:19]1=[O:20]>>[CH3:1][C:2]1([CH3:3])[C:4]([F:5])([F:6])[C:11]2([C:9]([NH:8][CH3:7])=[O:10])[NH:12][C:13]1([C:14](=[O:15])[O:16][CH3:17])[O:18][C:19]2=[O:20],water,298.15,29.76671739692608,-4.313724151165983
1171,1273,[CH3:13][CH-:14][O+:15]=[C:16]([C:17]([CH3:18])=[O:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:16]([C:17]([CH3:18])=[O:19])([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[O:15][CH:14]2[CH3:13],water,298.15,8.232826384912046,-44.4342080829303
644,704,[CH3:12][C-:13]([C:14]#[N:15])[N+:16]#[C:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)=[N:16][C:13]2([CH3:12])[C:14]#[N:15],water,298.15,8.199139871626782,-48.27163181163702
5040,5728,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16]#[N+:17][C-:18]([C:19](=[O:20])[O:21][CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:18]([C:19](=[O:20])[O:21][CH3:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N:17]=[C:16]2[CH3:15],water,298.15,10.480279750603383,-19.635834592265663
4385,5006,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[c:15]1[o:16][c:17](=[O:18])[c-:19]([C:20]([CH3:21])=[O:22])[o+:23]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]1([C:13]([O:12][CH3:11])=[O:14])[O:16][C:17](=[O:18])[C:19]2([C:20]([CH3:21])=[O:22])[O:23]1,water,298.15,8.703494624046314,-2.997334069643116
1686,1861,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17](=[O:18])[O:19][CH3:20])[C:21](=[O:22])[O:23][CH3:24].[CH3:1][NH:2][C:3](=[O:4])[C:5]([Cl:6])=[C:7]([Cl:8])[Cl:9]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]([Cl:8])([Cl:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:21](=[O:22])[O:23][CH3:24])[N:15]=[C:16]1[C:17](=[O:18])[O:19][CH3:20],water,298.15,20.89267209109857,-28.01190283176196
6,6,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][F:7].[CH3:8][CH:9]=[O+:10][O-:11]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[O:11][O:10][CH:9]1[CH3:8],water,298.15,11.722624703853556,-63.72133148926604
3164,3571,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][C:6](=[O:7])[N-:8][NH+:9]=[N:10][c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[N:8]([C:6]([CH3:5])=[O:7])[NH:9][N:10]1[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1,water,298.15,33.849653802940345,-11.687255642725296
